US06380218B1
5-Aminomethyl-1H-indole-2-carboxylic acid ethyl ester
A solution of 5-Cyano-1H-indole-2carboxylic acid ethyl ester (1.8 grams, 8.4 mmole) and Bu4N+BH3− in methylene chloride (80 ml) was refluxed for 4 hours. The mixture was concentrated to a brown oil which was dissolved in 10% hydrochloric acid (50 ml) and refluxed for 1 hour. The mixture was extracted with ethyl acetate (discarded) and the pH was neutralized. The aqueous was extracted with ethyl acetate. The combined extracts were dried over Na2SO4, filtered, and concentrated to give a solid. (0.920 g). MW 218.258; MS (m/e) 218 (M+).

reactant | 5-Cyano-1H-indole-2carboxylic acid ethyl ester | 8.4 mmole, 1.8 grams | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)C#N | C12H10N2O2
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | 5-Aminomethyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)CN | C12H14N2O2
